US06881733B1
1-benzyl-3-methyl-4-(4,5-difluorobenzofur-7-yl)-1,2,3,6-tetrahydropyridine
Beginning with 2.30 gm (6.44 mMol) 1-benzyl-3-methyl-4-hydroxy-4-(4,5-difluorobenzofur-7-yl)piperidine and 4.90 gm p-toluenesulfonic acid monohydrate, the desired compound was prepared essentially as described in EXAMPLE 3.

reactant | 1-benzyl-3-methyl-4-hydroxy-4-(4,5-difluorobenzofur-7-yl)piperidine | 6.44 mMol, 2.30 gm | C(C1=CC=CC=C1)N1CC(C(CC1)(C1=CC(=C(C=2C=COC21)F)F)O)C | C21H21F2NO2
reactant | p-toluenesulfonic acid monohydrate | 4.90 gm | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
product | 1-benzyl-3-methyl-4-(4,5-difluorobenzofur-7-yl)-1,2,3,6-tetrahydropyridine | C(C1=CC=CC=C1)N1CC(C(=CC1)C1=CC(=C(C=2C=COC21)F)F)C | C21H19F2NO
